US08729271B2
N-[(2-Bromopyridin-4-yl)methyl]propan-2-amine
After a mixture of isopropylamine (2.8 mL), 2-bromopyridine-4-carboxaldehyde (3.00 g), and chloroform (60 mL) was stirred at room temperature, sodium triacetoxyborohydride (10.00 g) was added thereto and the mixture was stirred for 21 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the resulting mixture was then stirred for a while and extracted with chloroform. The organic phase was separated out and the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=88:12-0:100) and (NH silica gel cartridge, hexane:ethyl acetate=90:10-0:100) to afford the title compound (2.64 g).

reactant | isopropylamine | 2.8 mL | C(C)(C)N | C3H9N
reactant | 2-bromopyridine-4-carboxaldehyde | 3.00 g | BrC1=NC=CC(=C1)C=O | C6H4BrNO
reactant | sodium triacetoxyborohydride | 10.00 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[(2-Bromopyridin-4-yl)methyl]propan-2-amine | 2.64 g | BrC1=NC=CC(=C1)CNC(C)C | C9H13BrN2
